US08133909B2
N-(3,4-Dimethyl-phenyl)-2-(5-methyl-pyridin-2-yl)-acetamide
To a 0° C. solution of 400 mg (2.12 mmol) (5-methyl-pyridin-2-yl)-acetic acid hydrochloride (CAS: 848093-05-0) in 7.5 mL dichloromethane were added successively 250 mg (2.02 mmol) 3,4-dimethylaniline and 415.4 mg (2.12 mmol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The mixture was stirred at 0° C. for 45 minutes. The solution was washed with a sat. NaHCO3 solution, NaOH 2N and with water, dried over Na2SO4, filtered and concentrated in vacuo. The crude solid was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide 0.40 g (77%) of the title compound as an off-white solid. MS (m/e): 255.2 [M+H]+.

reactant | (5-methyl-pyridin-2-yl)-acetic acid hydrochloride | 2.12 mmol, 400 mg | Cl.CC=1C=CC(=NC1)CC(=O)O
reactant | 3,4-dimethylaniline | 2.02 mmol, 250 mg | CC=1C=C(N)C=CC1C | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.12 mmol, 415.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
product | N-(3,4-Dimethyl-phenyl)-2-(5-methyl-pyridin-2-yl)-acetamide | 0.40 g, 77% | CC=1C=C(C=CC1C)NC(CC1=NC=C(C=C1)C)=O | C16H18N2O
